* EVSYS->ADC->PWM: 0V analog input (CMP0=0, PWM always LOW)
.title 0V Test

.options reltol=1e-6 vntol=1e-6 method=trap

A_dac [pb0_dig pc0_dig] [pb0_an pc0_an] dac_bridge
.model dac_bridge dac_bridge(out_low=0 out_high=5 input_load=1p t_rise=1n t_fall=1n)
R_p_pwm pb0_dig 0 10k
R_p_hb  pc0_dig 0 10k

A_AVR [0 0 0 0 0 0 0 0
+       pb0_dig 0 0 0 0 0 0 0
+       pc0_dig 0 0 0 0 0 0 0
+       0 0 0 0 0 0 0 0]
+      [0 0 0 0 0 0 0 0
+       pb0_dig 0 0 0 0 0 0 0
+       pc0_dig 0 0 0 0 0 0 0
+       0 0 0 0 0 0 0 0]
+      d_cosim_model

.model d_cosim_model d_cosim(
+ simulation="./cosim/libavr_cosim.so"
+ sim_args=["atmega4809","firmware.hex","0","0.0"]
+ queue_size=1024 irreversible=1 delay=1e-9)

.tran 1us 500us

.control
run
print v(pb0_an) v(pc0_an) > sim_matrix_0v.log
plot v(pb0_an) v(pc0_an)
.endc

.end
