.title EVSYS->ADC->PWM (direct)

V_adc adc_in 0 DC 3.0
A_avr_adc adc_in dummy avr_adc_bridge
.model avr_adc_bridge avr_adc_bridge(channel=0)
R_dummy dummy 0 1k

A_dac [pb0_dig pc0_dig] [pb0_an pc0_an] dac_bridge
.model dac_bridge dac_bridge(out_low=0 out_high=5)
R_p_pwm pb0_dig 0 10k
R_p_hb pc0_dig 0 10k

A_AVR [0 0 0 0 0 0 0 0 pb0_dig 0 0 0 0 0 0 0 pc0_dig 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+      [0 0 0 0 0 0 0 0 pb0_dig 0 0 0 0 0 0 0 pc0_dig 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+      d_cosim_model

.model d_cosim_model d_cosim(
+ simulation="./cosim/libavr_cosim.so"
+ sim_args=["atmega4809","firmware.hex","0"]
+ queue_size=1024 irreversible=1 delay=1e-9)

.tran 5us 2ms
.print tran v(adc_in) v(pb0_an) v(pc0_an)
.end
